US06329392B1
1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(4-fluoro-benzyl)-1H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-(3,4-dimethoxy-phenyl)-pyrrolidine
Combine 1-(3,4,5-trimethoxy-benzoyl)-3-(3,4-dimethoxy-phenyl)-3-(2-methanesulfonyl-ethyl)-pyrrolidine (0.69 g, 1.32 mmol) and 4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidine (0.49 g, 1.42 mmol), and sodium bicarbonate (0.223 g, 2.64 mmol) in tetrahydrofuran/water (15/4) (30 mL). Heat to reflux. After 72 hours, cool and evaporate in vacuo to obtain a residue. Partition the residue between dichloromethane and 5% sodium bicarbonate solution. Dry the organic layer over MgSO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 5/1 ethyl acetate/methanol to give an oil. Combine the oil with dichloromethane and extract with 5% sodium bicarbonate solution. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Dry the residue in vacuo at 82° C. to give the title compound: Rf=0.27 (silica gel, 5/1 ethyl acetate/methanol); mp; 80-83° C. Elemental Analysis calculated for C44H49FN4O7: C 69.09; H 6.46; N 7.32; Found: C 68.82; H 6.44; N 7.42.

reactant | 1-(3,4,5-trimethoxy-benzoyl)-3-(3,4-dimethoxy-phenyl)-3-(2-methanesulfonyl-ethyl)-pyrrolidine | 1.32 mmol, 0.69 g | COC=1C=C(C(=O)N2CC(CC2)(CCS(=O)(=O)C)C2=CC(=C(C=C2)OC)OC)C=C(C1OC)OC | C25H33NO8S
reactant | 4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidine | 1.42 mmol, 0.49 g | FC1=CC=C(CN2C(=NC3=C2C=CC=C3)C(=O)C3CCNCC3)C=C1 | C20H20FN3O
reactant | sodium bicarbonate | 2.64 mmol, 0.223 g | C([O-])(O)=O.[Na+]
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | tetrahydrofuran water | 30 mL | O1CCCC1.O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(4-fluoro-benzyl)-1H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-(3,4-dimethoxy-phenyl)-pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)OC)OC)CCN2CCC(CC2)C(=O)C2=NC3=C(N2CC2=CC=C(C=C2)F)C=CC=C3)C=C(C1OC)OC | C44H49FN4O7
